US08207210B2
Preparation of 1-(3-amino-1H-indazol-5-yl)-3-[2-(3-methoxyphenyl)ethyl]-urea (“A20”)
6.2 700 mg of tert-butyl-3-amino-5-{3-[2-(3-methoxyphenyl)ethyl]-ureido}indazole-1-carboxylate (1.6 mmol) are stirred for 16 hours with 10 ml of HCl/dioxane (4 M). The batch is concentrated and evaporated three times with 10 ml of toluene each time in a rotary evaporator. The residue is purified by column chromatography on silica gel (eluent: dichloromethane:methanol 9:1). Drying gives 120 mg of “A20” (22%), MS-FAB (M+H+)=326,

reactant | tert-butyl-3-amino-5-{3-[2-(3-methoxyphenyl)ethyl]-ureido}indazole-1-carboxylate | 1.6 mmol | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)NC(=O)NCCC1=CC(=CC=C1)OC)N | C22H27N5O4
solvent | HCl dioxane | 4 M, 10 ml | Cl.O1CCOCC1
product | 1-(3-amino-1H-indazol-5-yl)-3-[2-(3-methoxyphenyl)ethyl]-urea | NC1=NNC2=CC=C(C=C12)NC(=O)NCCC1=CC(=CC=C1)OC | C17H19N5O2
